US07094801B2
Ex-92A: To a solution of 4-acetyl-benzoic acid (0.5 g, 3.05 mmol) in tetrahydrofuran (10 mL) was added carbonyldiimidazole (0.74 g, 4.75 mmol). The solution was allowed to stir at ambient temperature for one hour and cooled to 0° C. followed by addition of ammonia (28% in water, 3 mL, 21 mmol). The solution was continued to stir at 0° C. for another one hour. The solvent was removed under reduced pressure. The residue was treated with water, filtered, washed with water, dried in vacuo to give 4-acetyl-benzamide (0.25 g, 50%) as a white solid. 1H NMR (DMSO-d6) δ 8.11 (bs, 1H), 8.00 (d, J=9 Hz, 2H), 7.95 (d, J=9 Hz, 2H), 7.53 (bs, 1H), 2.59 (s, 3H).

reactant | 4-acetyl-benzoic acid | 3.05 mmol, 0.5 g | C(C)(=O)C1=CC=C(C(=O)O)C=C1 | C9H8O3
reactant | carbonyldiimidazole | 4.75 mmol, 0.74 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ammonia | 21 mmol, 3 mL | N | H3N
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 4-acetyl-benzamide | 0.25 g, 50% | C(C)(=O)C1=CC=C(C(=O)N)C=C1 | C9H9NO2
